US08053431B2
3-[5-(1,3,3-Trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-indol-1-yl]-propionic Acid Ethyl Ester
To a solution of (1H-indol-5-yl)-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]oct-6-yl)methanone (250 mg, 0.84 mmol) in dry DMF (5 mL) at room temperature under an inert atmosphere of nitrogen was added sodium hydride (30 mg, 1.26 mmol, 60% dispersion in oil), and after stirring for 30 min ethyl bromopropionate (168 mg, 0.93 mmol) was added, and the reaction mixture was stirred for 16 h at 60° C. The reaction was quenched by the addition of water (20 mL) followed by extraction with DCM (3×100 mL). The combined organic phases were dried (MgSO4), filtered and evaporated in vacuo. The resulting solid was purified by silica gel chromatography using a mixture of ethyl acetate and heptane (1:1) as eluent. Pure fractions were collected, the solvent evaporated in vacuo and dried in vacuo at 50° C. affording 125 mg (37%) of the title compound as a solid. MS-ESI m/z 397; 1H NMR (400 MHz, CDCl3) δ 0.95 (d, 3H), 1.03 (d, 3H), 1.13-1.22 (m, 7H), 1.25-1.43 (m, 2H), 1.45 (s, 1H), 1.62-1.68 (m, 1H), 1.76-1.80 (m, 1H), 2.29-2.33 (m, 1H), 2.82 (t, 2H), 3.28-3.35 (m) and 3.63 (d), 1H), 4.12-4.14 and 4.64-4.66 (m, 1H), 4.11 (q, 2H), 4.47 (t, 2H), 6.52 (d, 1H), 7.18 (d, 1H), 7.32-7.39 (m, 2H), 7.74 (d, 1H).

reactant | (1H-indol-5-yl)-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]oct-6-yl)methanone | 0.84 mmol, 250 mg | N1C=CC2=CC(=CC=C12)C(=O)N1C2CC(CC(C1)(C2)C)(C)C | C19H24N2O
reactant | sodium hydride | 1.26 mmol, 30 mg | [H-].[Na+]
reactant | ethyl bromopropionate | 0.93 mmol, 168 mg | BrC(C(=O)OCC)C | C5H9BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-[5-(1,3,3-Trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-indol-1-yl]-propionic Acid Ethyl Ester | 125 mg, 37% | C(C)OC(CCN1C=CC2=CC(=CC=C12)C(=O)N1C2CC(CC(C1)(C2)C)(C)C)=O | C24H32N2O3
